US03980633
5parts of 1-phenyl-4-amino-6-mercaptopyridazinium chloride in 100 parts of toluene is stirred with 2.5 parts of benzyl chloride for 1 hour at 110°C. 6.2 parts (90.2% of theory) of 1-phenyl-4-amino-6-benzylmercaptopyridazinium chloride is obtained; C17H16N3SCl, melting point 226° to 228°C after having been recrystallized from alcohol. The perchlorate melts at 170° to 171°C.

reactant | 1-phenyl-4-amino-6-mercaptopyridazinium chloride | [Cl-].C1(=CC=CC=C1)[N+]1=NC=C(C=C1S)N
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-4-amino-6-benzylmercaptopyridazinium chloride | 90.2% | [Cl-].C1(=CC=CC=C1)[N+]1=NC=C(C=C1SCC1=CC=CC=C1)N | InChI=1S/C17H15N3S.ClH/c18-15-11-17(21-13-14-7-3-1-4-8-14)20(19-12-15)16-9-5-2-6-10-16;/h1-12,18H,13H2;1H
